US05025025
A mixture of 2.0 g (12.8 mmol) ethyl 2-oxocyclopentanecarboxylate, 5.71 g (25.6 mmol) 1-(tetrahydropyranyl- oxy)-3-bromopropane, 7.08 g (57.2 mmol) powdered potassium carbonate and 60 mL acetone is heated to 60° C. under nitrogen with stirring for 8 hours. The reaction mixture is cooled to room temperature, filtered and evaporated to give a yellow orange liquid which is purified by flash chromatograhy using 1:9 ethyl acetate, hexane to yield 2-[3-(tetrahydropyranyloxy)propyl]-2-carbethoxycyclopentanone; IR (neat): 1750 cm-1 1724 cm-1.

reactant | ethyl 2-oxocyclopentanecarboxylate | 12.8 mmol, 2.0 g | O=C1C(CCC1)C(=O)OCC | C8H12O3
reactant | 1-(tetrahydropyranyl- oxy)-3-bromopropane | 25.6 mmol, 5.71 g | O1C(CCCC1)OCCCBr | C8H15BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 60 mL | CC(=O)C | C3H6O
product | 2-[3-(tetrahydropyranyloxy)propyl]-2-carbethoxycyclopentanone | O1C(CCCC1)OCCCC1(C(CCC1)=O)C(=O)OCC | C16H26O5
